US06897224B2
2-Ethoxy-5-nitroquinoline
A suspension of 1 g (5 mmol) of 5-nitroquinoline-1-oxide, 1.23 g (6.4 mmol) of toluenesulfonic acid chloride and 1.4 ml (9.9 mmol) of triethylamine in 30 ml of EtOH is stirred for 60 hours at room temperature. The solid is suctioned off and washed with EtOH: 870 mg of product.

reactant | 5-nitroquinoline-1-oxide | 5 mmol, 1 g | [N+](=O)([O-])C1=C2C=CC=[N+](C2=CC=C1)[O-] | C9H6N2O3
reactant | toluenesulfonic acid chloride | 6.4 mmol, 1.23 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 9.9 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 30 ml | CCO | C2H6O
product | 2-Ethoxy-5-nitroquinoline | C(C)OC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C11H10N2O3
